US08791255B2
The product is prepared according to the procedure described in example 5, using 1 g of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 680 mg of 6-amino-2-methylphenol and 1.2 g of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 6 ml of pyridine and 8 ml of N,N-dimethylformamide. 1.1 g of N-(2-hydroxy-3-methyl phenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a beige solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 1 g | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 6-amino-2-methylphenol | 680 mg | NC1=CC=CC(=C1O)C | C7H9NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.2 g | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-(2-hydroxy-3-methyl phenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 1.1 g | OC1=C(C=CC=C1C)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C17H20N4O4
